US04329518
Under a dry argon atmosphere, a borane-tetrahydrofuran complex (39.7 g, 0.463 mole) as a 1 M solution in tetrahydrofuran was added slowly to a stirred solution of 2,6-dimethyl-3-nitrobenzoic acid (60.2 g, 0.308 mole) in 350 ml of anhydrous tetrahydrofuran. The reaction mixture was heated at 60° for approximately 18 hours. Water (20 ml) was slowly added to the reaction mixture, and the resultant mixture was concentrated under reduced pressure to give a residue. The residue was washed with three 100 ml portions of methylene chloride, then three 100 ml portions of a 2 N aqueous sodium hydroxide. The washes were combined and the organic phase separated. The aqueous phase was washed with four 250 ml portions of methylene chloride, and the organic phases were combined, dried with anhydrous magnesium sulfate, and filtered. The solvent was removed from the filtrate under reduced pressure to give 2,6-dimethyl-3-nitrobenzene-1-methanol (51.3 g, mp 86.5°-88.5°).

reactant | 2,6-dimethyl-3-nitrobenzoic acid | 0.308 mole, 60.2 g | CC1=C(C(=O)O)C(=CC=C1[N+](=O)[O-])C | C9H9NO4
reactant | Water | 20 ml | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 350 ml | O1CCCC1 | C4H8O
product | 2,6-dimethyl-3-nitrobenzene-1-methanol | 51.3 g | CC1=C(C(=CC=C1[N+](=O)[O-])C)CO | C9H11NO3
